US07332629B2
To a stirred solution of 2-Methoxy-6-pentadecylbenzoic Acid (6.5 g, 16 mmol) in hexane (60 mL) were added thionyl chloride (2.5 g, 21 mmol) and N,N-dimethylformamide (0.5 mL). The reaction mixture was heated to reflux for 1 h After the reaction was complete, the solvent was evaporated under reduced pressure to yield the desired 2-Methoxy -6-pentadecylbenzoyl Chloride, which was redissolved in dichloromethane (50 mL) and used for the condensation with anilides.

reactant | 2-Methoxy-6-pentadecylbenzoic Acid | 16 mmol, 6.5 g | COC1=C(C(=O)O)C(=CC=C1)CCCCCCCCCCCCCCC | C23H38O3
reactant | thionyl chloride | 21 mmol, 2.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | hexane | 60 mL | CCCCCC | C6H14
product | 2-Methoxy -6-pentadecylbenzoyl Chloride | COC1=C(C(=O)Cl)C(=CC=C1)CCCCCCCCCCCCCCC | C23H37ClO2
